Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
AFib with RVR
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo female with a history of breast cancer and hypertension
admitted with a new diagnosis of atrial fibrillation. The 
patient
went to the clinic for a routine visit and was found to be
tachycardic and an EKG showed atrial fibrillation. The patient
states she has been feeling well overall. She does have some
muscle and joint aches that have been going on for months/years.
She denies any fevers, shortness of breath, chest pain, nausea,
or constipation. She denies any dysuria, hematuria, or urinary
urgency.

REVIEW OF SYSTEMS:
- All reviewed and negative except as noted in the HPI.

PAST ONCOLOGIC HISTORY (per OMR):
- Bilateral breast cancer
___ years ago, she underwent left mastectomy for a tumor that
was managed without adjuvant systemic treatment or radiation
therapy.
In ___, she was dx'd with right DCIS, which was tx'd with
lumpectomy only.  In ___, right breast mass was palpated 
by
Dr. ___.  This was asymptomatic and measured 3 cm with skin
ulceration.  This was in the lateral lower right breast and
covered by overlying breast tissue, thus not well noticed by the
patient.  She had palpable axillary adenopathy as well and
fine-needle aspiration of the tumor showed that it was hormone
receptor positive and HER-2/neu negative.  It was histologic
grade II.  Given her age at the time, we opted to treat her with
neoadjuvant aromatase inhibitor therapy, possibly indefinitely 
as
it was not clear that she would ever become a surgical 
candidate.
Accordingly, she started anastrozole in ___. Ms. ___ has
responded to Anastrazole well with shrinkage of the indurated
area and healing of the ulcer. She has pre-exisiting 
arthralgias,
which did not improve after taking 3 weeks off Anastrazole in
___. She since resumed the AI and continues to tolerate it 
well.

PAST MEDICAL HISTORY:
- Cataracts, cholecystectomy, colonic polyps, hypertension,
lumbar spinal stenosis, obesity and TAH/BSO.

SOCIAL HISTORY:
___
FAMILY HISTORY:
- No known family history.

HOME MEDICATIONS:
1. amlodipine-benazepril 2.5-10 mg oral DAILY 
2. Anastrozole 1 mg PO DAILY 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General:  NAD
VITAL SIGNS: T 97.6 HR 99 BP 118/68 RR 22 O2 95%RA
HEENT:  MMM, no OP lesions
CV: Irregularly irregular.
PULM:  CTAB
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, no focal deficits.

DISCHARGE PHYSICAL EXAM:
VITAL SIGNS: 98.2PO 127 / 70 63 18 96 Ra 
GENERAL: Well appearing, laying in bed in NAD
HEENT:  MMM, no OP lesions
CV: RRR, no m/r/g
PULM:  CTAB, no respiratory distress, no w/r/r
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, no focal deficits.
PSYCH: normal mood and affect, however, somewhat forgetful

 
Pertinent Results:
ADMISSION LABS:
___ 01:08PM BLOOD WBC-7.6 RBC-4.09 Hgb-13.2 Hct-40.5 
MCV-99* MCH-32.3* MCHC-32.6 RDW-13.9 RDWSD-50.6* Plt ___
___ 01:08PM BLOOD Plt ___
___ 01:08PM BLOOD Glucose-108* UreaN-18 Creat-0.9 Na-143 
K-3.6 Cl-107 HCO3-24 AnGap-16
___ 07:38AM BLOOD ALT-<5 AST-10 AlkPhos-64 TotBili-0.5
___:38AM BLOOD Calcium-8.5 Phos-3.5 Mg-2.0
___ 01:08PM BLOOD D-Dimer-___*

DISCHARGE LABS:
___ 07:20AM BLOOD WBC-7.2 RBC-3.90 Hgb-12.5 Hct-38.4 
MCV-99* MCH-32.1* MCHC-32.6 RDW-13.8 RDWSD-50.2* Plt Ct-90*
___ 07:20AM BLOOD Plt Smr-LOW* Plt Ct-90*
___ 07:20AM BLOOD Glucose-96 UreaN-15 Creat-0.9 Na-142 
K-3.7 Cl-106 HCO3-25 AnGap-15
___ 07:20AM BLOOD Calcium-8.2* Mg-2.0

CXR ___:
AP upright and lateral views of the chest provided.  There is no 
focal 
consolidation, effusion, or pneumothorax.  Interstitial 
opacities could 
reflect a component of mild interstitial edema.  Retrocardiac 
opacity most 
likely represents a small hiatal hernia.  The cardiomediastinal 
silhouette is 
normal.  No free air below the right hemidiaphragm is seen.  
Severe 
degenerative disease of the right shoulder noted. 

CTA Chest ___:
1. No evidence of pulmonary embolism or acute aortic 
abnormality. 
2. Very large hiatal hernia including the entire stomach (which 
is flipped 
upside down) and proximal small bowel. 
3. Multiple pulmonary nodules measuring up to 6 mm in the right 
middle lobe. 
4. Well-defined, fluid-filled structures surround the 
partially-imaged 
bilateral humeri.  This is incompletely characterized on this 
study, but may 
reflect bursitis or lymphedema in the appropriate clinical 
setting.  Correlate 
with prior imaging and clinical examination. 
5. Multiple sclerotic lesions and one lytic lesion in the 
thoracic spine are 
suspicious for metastatic disease given the patient's history of 
breast 
cancer. 
6. Density in the right breast probably reflects the known 
breast cancer. 
7. Chronic compression deformity of the T12 vertebral body. 
  
TTE ___:
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. Normal left ventricular wall thickness, 
cavity size, and global systolic function (3D LVEF = XX %). 
Quantitative (biplane) LVEF = XX %. The estimated cardiac index 
is normal (>=2.5L/min/m2). Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). 
Doppler parameters are most consistent with Grade II (moderate) 
left ventricular diastolic dysfunction. Right ventricular 
chamber size is normal with normal free wall contractility. 
[Intrinsic right ventricular systolic function is likely more 
depressed given the severity of tricuspid regurgitation.] The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. Trace aortic regurgitation is 
seen. The mitral valve leaflets are structurally normal. There 
is no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. Moderate [2+] tricuspid regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion. 

 IMPRESSION: Normal biventricular wall thickness, cavity size 
and regional/global systolic function. Diastolic dysfunction. 
Elevated PCWP. Mild mitral regurgitation. Moderate tricuspid 
regurgitation. Pulmonary artery systolic hypertension.  
 
Brief Hospital Course:
___ yo female with a history of breast cancer and hypertension 
admitted with a new diagnosis of atrial fibrillation.

# Atrial Fibrillation: Pt has not had a prior diagnosis of afib 
in the past.  Was incidentally noted to have RVR in ___ clinic. 
Chest CTA done on admission negative for PE.  TSH wnl.  Possible 
trigger is ?UTI on admission but pt otherwise denies UTI
symptoms.  She received dilt in the ED and self-converted to NSR 
on admission.  TTE obtained ___ did not show any significant 
valvular disease or other abnormalities other than elevated PASP 
(CT chest however, relatively unremarkable).  She was started 
fractionated metop which was converted to 100mg Metoprolol XL on 
discharge.  She was also started on apixaban after discussion of 
risks and benefits.

# UTI?/Pyuria
Pt c/o some urinary frequency.  Urine culture was negative but 
pt was treated with 3 days of ciprofloxacin given possible 
symptoms and ?trigger for afib.  Frequency improved on 
discharge.

# Breast Cancer
Continued home anastrazole

# HTN
Pt on amlodipine-benzopril at home.  This was held on discharge 
as pt's SBP's in the 120's-120's range on metoprolol alone.

# Painful Bunions
Referred to Podiatry

Greater than 30 minutes spent on discharge counseling and 
coordination of care
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amlodipine-benazepril 2.5-10 mg oral DAILY 
2. Anastrozole 1 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice per day 
Disp #*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Anastrozole 1 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Afib with RVR
?UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You came in with an abnormal heart rhythm called atrial 
fibrillation.  We think this may have been due to a possible 
urinary tract infection.  We treated you with a medication to 
slow your heart down and you reverted back into a normal heart 
rhythm.

We are discharging you with 2 new medications, metoprolol, which 
you will take to prevent your heart from going fast again, and 
apixaban, which you will take to prevent strokes.

It was a pleasure taking care of you at ___.
 
Followup Instructions:
___